USRE039591E1
Step 231a. N-(4-quinolyl)methoxyphthalimide
4-(hydroxymethyl)quinoline (1.20 g, 7.55 mmol), triphenyl phosphine (2.27 g, 8.66 mmol, 1.15 equiv) and N-hydroxyphthalimide (1.42 g, 8.71 mmol, 1.15 equiv) were dissolved in 40 mL of dry THF. Diethylazodicarboxylate (1.44 mL, 9.15 mmol, 1.21 equiv) was then added dropwise and the reaction was stirred overnight. The reaction mixture was then diluted with 50 mL of Et2O and filtered. The resulting solid was dissolved in dichloromethane and washed with 1N NaOH, H2O and brine. The organic portion was dried over Na2SO4 and concentrated under reduced pressure to give the title compound (2.03 g) as a fluffy white solid. MS(CI) m/e 305 (M+H)+.

reactant | 4-(hydroxymethyl)quinoline | 7.55 mmol, 1.20 g | OCC1=CC=NC2=CC=CC=C12 | C10H9NO
reactant | triphenyl phosphine | 8.66 mmol, 2.27 g, 1.15 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 8.71 mmol, 1.42 g, 1.15 equiv | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | Diethylazodicarboxylate | 9.15 mmol, 1.44 mL, 1.21 equiv | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | N-(4-quinolyl)methoxyphthalimide | 2.03 g | N1=CC=C(C2=CC=CC=C12)CON1C(C=2C(C1=O)=CC=CC2)=O | C18H12N2O3
